US07214800B2
c) 3-Benzyl-7-chloro-2-[2-methyl-1-(2-phenyl-imidazol-1-yl)-propyl]-3H-quinazolin-4-one
A solution of N-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-N-(2,2-dimethoxy-ethyl)-benzamide (288 mg, 0.539 mmol) and ammonium acetate (374 mg, 4.85 mmol) in acetic acid (4.0 mL) was refluxed for 2.0 h. The reaction was concentrated in vacuo and the residue was dissolved in ethyl acetate and washed sequentially with saturated sodium carbonate, water, and brine. The organic layer was dried (Na2SO4), concentrated in vacuo, and recrystallized from ethanol to give the title compound as tan crystals (57.1 mg, 23%). MS(ES+) m/e 469 [M+H]+.

reactant | N-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-N-(2,2-dimethoxy-ethyl)-benzamide | 0.539 mmol, 288 mg | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)C(C(C)C)N(C(C1=CC=CC=C1)=O)CC(OC)OC | C30H32ClN3O4
reactant | ammonium acetate | 4.85 mmol, 374 mg | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 4.0 mL | C(C)(=O)O | C2H4O2
product | 3-Benzyl-7-chloro-2-[2-methyl-1-(2-phenyl-imidazol-1-yl)-propyl]-3H-quinazolin-4-one | 57.1 mg, 23% | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)C(C(C)C)N1C(=NC=C1)C1=CC=CC=C1 | C28H25ClN4O
